US09227923B2
4-Acetyl-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-benzamide (2.2 g) was dissolved in ethanol (15 ml) and water (15 ml). To the solution, sodium acetate (0.6 g) and hydroxylamine hydrochloride (0.30 g) were added and the mixture was refluxed under heating for 4 hours. The reaction solution was extracted twice with ethyl acetate. The organic phases were combined, washed with water and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-[N-hydroxyethaneimidoyl]benzamide (2.1 g, yield 96%).

reactant | 4-Acetyl-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-benzamide | 2.2 g | C(C)(=O)C1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C21H18F7NO2
reactant | sodium acetate | 0.6 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.30 g | Cl.NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-[N-hydroxyethaneimidoyl]benzamide | 2.1 g, yield 96% | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=CC=C(C=C1)C(C)=NO)=O | C21H19F7N2O2
